US04663336
A. 3-(4-Hydroxyphenyl)propanoyl glycine ethyl ester
3-(4-Hydroxyphenyl)propionic acid (2.49 g, 15 mmol) was reacted with glycine ethyl ester hydrochloride in the presence of CDI and Et3N as described in Example 56 Part A. After removal of the solvent the residue was dissolved in CHCl3 and washed with 1N HCl, saturated NaHCO3 solution and saturated NaCl solution. After drying (MgSO4) and removal of the solvent in vacuo crude title ester remained (2.44 g) as a viscous oil. NMR indicated this contained a major impurity but it was used without further purification.

reactant | 3-(4-Hydroxyphenyl)propionic acid | 15 mmol, 2.49 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | glycine ethyl ester hydrochloride | Cl.C(C)OC(CN)=O
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | Et3N | CCN(CC)CC | C6H15N
product | 3-(4-Hydroxyphenyl)propanoyl glycine ethyl ester | C(C)OC(CNC(CCC1=CC=C(C=C1)O)=O)=O | C13H17NO4
